US03940418
A mixture of 5 parts of methyl 7-chloro-1-phenyl-4,5-dihydro-1H-benz[g]indazole-3-carboxylate and 40 parts of 2-diethylaminoethylamine is heated at reflux for 3 hours. Excess amine is distilled off under reduced pressure and the reside is partitioned in ether and dilute aqueous hydrochloric acid. The aqueous layer is then separated and washed twice with ether and it is made alkaline with an aqueous sodium hydroxide solution. The resulting mixture is then extracted with ether and the ether extracts are dried over potassium carbonate. The ether solvent is removed under reduced pressure, the resulting oil is dissolved in anhydrous ethanol, and a slight excess of hydrogen chloride in 2-propanol is added. Anhydrous ether is then added until the mixture becomes turbid, and the mixture is cooled. The solid which forms is separated by filtration and recrystallized from a mixture of ethanol and ether to give 7-chloro-N-(2-diethylaminoethyl)-1-phenyl-4,5-dihydro-1H-benz[g]indazole-3-carboxamide hydrochloride melting at about 229°-231°C. The free base of this compound has the following formula ##SPC3##

reactant | methyl 7-chloro-1-phenyl-4,5-dihydro-1H-benz[g]indazole-3-carboxylate | ClC=1C=CC2=C(CCC=3C(=NN(C23)C2=CC=CC=C2)C(=O)OC)C1 | C19H15ClN2O2
reactant | 2-diethylaminoethylamine | C(C)N(CCN)CC | C6H16N2
product | 7-chloro-N-(2-diethylaminoethyl)-1-phenyl-4,5-dihydro-1H-benz[g]indazole-3-carboxamide hydrochloride | Cl.ClC=1C=CC2=C(CCC=3C(=NN(C23)C2=CC=CC=C2)C(=O)NCCN(CC)CC)C1 | InChI=1S/C24H27ClN4O.ClH/c1-3-28(4-2)15-14-26-24(30)22-21-12-10-17-16-18(25)11-13-20(17)23(21)29(27-22)19-8-6-5-7-9-19;/h5-9,11,13,16H,3-4,10,12,14-15H2,1-2H3,(H,26,30);1H
